US08871753B2
14-Butyryl-6-chloro-2,4,8,14,22-pentaazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaene
The desired compound was prepared as a white powder according to the procedure of Example C22, step F, using 6-chloro-2,4,8,14,22-pentaazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaene and butyryl chloride as the starting materials in 50% yield. LCMS for C21H21ClN5O (M+H)+: m/z=394.1.

reactant | 6-chloro-2,4,8,14,22-pentaazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaene | ClC=1C=NC=2NC=3C=CC=C(CNC4=CC=CC(NC1N2)=C4)C3 | C17H14ClN5
reactant | butyryl chloride | C(CCC)(=O)Cl | C4H7ClO
product | 14-Butyryl-6-chloro-2,4,8,14,22-pentaazatetracyclo[14.3.1.1(3,7).1(9,13)]docosa-1(20),3(22),4,6,9(21),10,12,16,18-nonaene | 50% yield | C(CCC)(=O)N1C2=CC=CC(NC3=C(C=NC(NC=4C=CC=C(C1)C4)=N3)Cl)=C2 | C21H20ClN5O
